US08124617B2
Methyl 5-benzyloxy-2-methoxybenzoate (3.72 g) was dissolved in a mixed solvent of THF (30 ml) and methanol (30 ml), and 1N aqueous sodium hydroxide solution (27.3 ml) was added to the mixed solution. The mixture was stirred at room temperature for 2 days, and 1N aqueous hydrochloric acid solution (40 ml) was added. The precipitate was collected by filtration and washed with water to give 5-benzyloxy-2-methoxybenzoic acid (3.10 g, 88%) as colorless crystals.

reactant | Methyl 5-benzyloxy-2-methoxybenzoate | 3.72 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OC)C1)OC | C16H16O4
reactant | hydrochloric acid | 1N, 40 ml | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 27.3 ml | [OH-].[Na+]
product | 5-benzyloxy-2-methoxybenzoic acid | 3.10 g, 88% | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)O)C1)OC | C15H14O4
